US05015661
rac-2-[(3,4-Difluorophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
Reaction of rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 1-bromo-3,4-difluorobenzene under the conditions described in Example 26 and extending the reaction time to 42 hours gave after chromatographic isolation (40 fold amount of silica gel using methylene chloride) and crystallization from petroleum ether colorless crystals of the title compound with m.p. 109°-112°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 1-bromo-3,4-difluorobenzene | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
product | rac-2-[(3,4-Difluorophenyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | FC=1C=C(C=CC1F)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C21H20F2O2
